US07872031B2
3-Amino-N-(2,3-difluorophenyl)pyrazine-2-carboxamide
To a solution of 3-aminopyrazine-2-carboxylic acid (2.0 g, 14.38 mmol) in anhydrous DMF (20 mL) was added 2,3-difluoroaniline (2.2 g, 17.04 mmol) and DIEA (7.6 mL, 43.63 mmol). The mixture was stirred at room temperature while PyBOP (7.5 g, 14.41 mmol) was added. The stirring was continued for another 14 hours until HPLC detected no starting material. The reaction solution was then poured into saturated sodium bicarbonate solution. The crude product was collected by vacuum filtration and washed with water. After drying on vacuum pump for 24 hours, the off-white product (2.9 g, 80%) was used directly in the next reaction without further purification. LC-MS m/e=250.8 (M+H); 1H-NMR (500 MHZ, DMSO-d6): 10.42 (s, 1H), 8.33 (d, 1H), 7.94 (d, 1H), 7.72 (m, 1H), 7.60 (br, 2H), 7.25 (m, 2H). Using the same procedure, 3-amino-N-(2,3-dichlorophenyl)pyrazine-2-carboxamide and 3-amino-N-(3-chloro-2-fluorophenyl)pyrazine-2-carboxamide can be produced by reacting 3-aminopyrazine-2-carboxylic acid with 2,3-dichloroaniline and 3-chloro-2-fluoroaniline, respectively. Analogously, this procedure can be used to produce 2-amino-N-(2,3-difluorophenyl)pyridine-3-carboxamide, 2-amino-N-(2,3-dichlorophenyl)pyridine-3-carboxamide, and 2-amino-N-(3-chloro-2-fluorophenyl)pyridine-3-carboxamide by reacting 2-amino-pyridine-3-carboxylic acid with 2,3-difluoroaniline, 2,3-dichloroaniline, and 3-chloro-2-fluoroaniline, respectively.

reactant | 2-amino-pyridine-3-carboxylic acid | NC1=NC=CC=C1C(=O)O | C6H6N2O2
reactant | 2,3-difluoroaniline | FC1=C(N)C=CC=C1F | C6H5F2N
reactant | 2,3-dichloroaniline | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | 3-chloro-2-fluoroaniline | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
product | 3-Amino-N-(2,3-difluorophenyl)pyrazine-2-carboxamide | NC=1C(=NC=CN1)C(=O)NC1=C(C(=CC=C1)F)F | C11H8F2N4O
